US08530473B2
158 ml of a solution of vinylmagnesium chloride in THF is added dropwise using a dropping funnel in 1 h at room temperature under nitrogen to 13.1 ml of a solution of dimethoxymethylphenyldivinylsilane in 36 ml of anhydrous THF. The temperature is controlled with a water bath. After addition, the mixture is stirred at room temperature for 16 h and then refluxed for 2 h. 40 ml of H2O is then added and the mixture is stirred for 30 min. The white precipitate that forms is filtered and is then rinsed with ethyl acetate. The filtrate is extracted with ethyl acetate twice. The organic phases are combined, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated under vacuum. 12.56 g of methyl-phenyl-divinyl-silane is obtained in the form of a clear yellow oil, which is then used without further purification.

reactant | vinylmagnesium chloride | C(=C)[Mg]Cl
reactant | dimethoxymethylphenyldivinylsilane | COC(OC)[Si](C=C)(C=C)C1=CC=CC=C1 | C13H18O2Si
reactant | H2O | 40 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 36 ml | C1CCOC1 | C4H8O
product | methyl-phenyl-divinyl-silane | 12.56 g | C[Si](C=C)(C=C)C1=CC=CC=C1 | C11H14Si
